* C:\Users\---\Desktop\DCE\dce-g5-proyecto_integrador\Checkpoint 2\Simulación.asc
Q1 N005 N005 N003 0 BC557B
Q2 Vlc N005 N004 0 BC557B
Q3 N005 Vref N007 0 BC547B
Q4 Vlc Vf N007 0 BC547B
Q9 N002 N001 Vreg 0 TIP42C
Q8 N001 Vlc N002 0 BC547B
R2 N006 Vf 390
R3 Vf N009 1K
RL Vo 0 {RL}
V1 N023 0 {VREFDC} AC {VREFAC}
Vreg1 Vreg 0 {VINDC} AC {VINAC}
RE1 Vreg N003 470
RE2 Vreg N004 470
C3 Vo 0 1µ
Rs Vo N002 0.1
R14 Sum N028 820k
R15 N027 N026 1k
R25 N030 0 100
Q7 Vlc N026 N030 0 BC547B
R22 N021 0 1.5k
R18 Sum N022 1.5k
R21 N024 Vf 6.8k
R20 N025 N032 6.8k
R19 Sum N029 1.5k
R4 N009 N016 680
M1 N009 SELA 0 0 2N7002
V§SELA1 SELA 0 {SELA}
Q6 N007 N010 0 0 BC547B
Q5 N010 N010 0 0 BC547B
R6 Vreg N010 3.3k
R1 N002 N006 2.7k
XU2A N014 N011 +VPOSA -VPOSA N018 LM324
XU2B 0 Sum +VPOSA -VPOSA N028 LM324
XU1A N021 N022 +VPOSA -VPOSA N022 LM324
VPOSA1 +VPOSA 0 5
R23 N020 Vref 5.6k
R10 N014 0 10k
R26 N002 N011 1k
R27 Vo N014 1k
R5 N016 0 270
XU1B N025 N029 +VPOSA -VPOSA N029 LM324
R7 N021 N020 2.2k
V§Pulso N019 N023 PULSE(0 10m 0 1f 1f 1m 2m)
R16 N018 Sum 1.5k
VPOSA2 -VPOSA 0 -5
R9 N011 N018 10k
R8 N032 0 680
R11 N025 N024 1k2
Cp N027 N031 1Meg
Vp N031 0 AC 1
Lp N027 N028 1Meg
C4 N008 N017 90p
C1 N015 N013 2.5n
Rcp N013 N012 200
V2 Vref 0 {VREFDC} AC {VREFAC}
.model NPN NPN
.model PNP PNP
.lib C:\Users\---\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\---\Documents\LTspiceXVII\lib\cmp\standard.mos
.op
.param VINDC 6.35
.param VINAC 1
.param VREFDC=1.2
.param VREFAC 0
* .param RL=6.5
* .dc Vreg1 4 24
.step param RL 1u 12 0.2
.MODEL TIP42C PNP(Is=66.19f Xti=3 Eg=1.11 Vaf=100 Bf=137.6 Ise=862.2f Ne=1.481 Ikf=1.642 Nk=.5695 Xtb=2 Br=5.88 Isc=273.5f Nc=1.24 Ikr=3.555 Rc=79.39m Cjc=870.4p Mjc=.6481 Vjc=.75 Fc=.5 Cje=390.1p Mje=.4343 Vje=.75 Tr=235.4n Tf=23.21n Itf=71.33 Xtf=5.982 Vtf=10 Rb=.1 Vceo=100 Icrating=6 mfg=Texas)
.MODEL TIP41C NPN (IS=7.55826e-11 BF=260.542 NF=1.11221 VAF=100 IKF=0.526814 ISE=1e-08 NE=2.18072 BR=26.0542 NR=1.5 VAR=1000 IKR=3.54059 ISC=1e-08 NC=1.63849 RB=4.56157 IRB=0.1 RBM=0.1 RE=0.0162111 RC=0.0810556 XTB=0.1 XTI=1 EG=1.206 CJE=1.93296e-10 VJE=0.4 MJE=0.259503 TF=1e-08 XTF=4.06972 VTF=7.1157 ITF=0.001 CJC=1.09657e-10 VJC=0.730921 MJC=0.23 XCJC=0.803085 FC=0.8 TR=9.01013e-08 PTF=0 Vceo=100 ICrating=6 mfg=ON_Semi)
.inc LM324.lib
* .tran 0.99999
* R = 100*(1-TIME)
.param SELA 5
* .ac dec 1000 1 1G
* .step param RL list 1 10
* .step param SELA list 0 5
* .step param Cvar list 1 100n 10n 1n
* .tran 0 6m 0 0.01m
.backanno
.end
