* C:\Users\---\Desktop\DCE\dce-g5-proyecto_integrador\Checkpoint 2\Simulación.asc
Q1 N005 N005 N003 0 BC557B
Q2 Vlc N005 N004 0 BC557B
Q3 N005 Vref N008 0 BC547B
Q4 Vlc Vf N008 0 BC547B
Q9 N002 N001 Vreg 0 TIP42C
Q8 N001 Vlc N002 0 BC547B
R2 N006 Vf 390
R3 Vf N012 1K
RL Vo 0 {RL}
V1 Vref N018 {VREFDC} AC {VREFAC}
Vreg1 Vreg 0 {VINDC} AC {VINAC}
RE1 Vreg N003 470
RE2 Vreg N004 470
CL Vo 0 {CL}
Rs Vo N002 0.1
R14 Sum N023 100k
R15 N023 N022 1k
R25 N024 0 100
Q7 Vlc N022 N024 0 BC547B
R22 N020 0 1.5k
R18 Sum N021 1.5k
R21 N025 Vf 6.8k
R20 N026 N031 6.8k
R19 Sum N027 1.5k
R4 N012 N017 680
M1 N012 SELA 0 0 2N7002
V§SELA1 SELA 0 {SELA}
Q6 N008 N009 0 0 BC547B
Q5 N009 N009 0 0 BC547B
R6 Vreg N009 3.3k
R1 N002 N006 2.7k
XU2A N011 N010 +VPOSA -VPOSA N015 LM324
XU2B 0 Sum +VPOSA -VPOSA N023 LM324
XU1A N020 N021 +VPOSA -VPOSA N021 LM324
VPOSA1 +VPOSA 0 5
R23 N019 Vref 5.6k
R10 N011 0 10k
R26 N002 N010 1k
R27 Vo N011 1k
R5 N017 0 270
XU1B N026 N027 +VPOSA -VPOSA N027 LM324
R7 N020 N019 2.7k
V§Pulso N018 0 PULSE(-10m 10m 0 1f 1f 1m 2m)
R16 N015 Sum 1.5k
VPOSA2 -VPOSA 0 -5
R9 N010 N015 10k
R8 N031 0 510
R11 N026 N025 1.2k
Cp N028 N030 1Meg
Vp N030 0 AC 1
Lp N028 N029 1Meg
C4 N002 Vf 100p
C1 Vf N007 2.2n
R12 N007 Vlc 220
L1 N014 N013 1Meg
C2 N013 N016 1Meg
V2 N016 0 AC 1
C5 0 +VPOSA {Cdes}
C6 0 -VPOSA {Cdes}
C7 0 Vreg {Cdes}
C8 0 Vref {Cdes}
C9 0 SELA {Cdes}
.model NPN NPN
.model PNP PNP
.lib C:\Users\---\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\---\Documents\LTspiceXVII\lib\cmp\standard.mos
.op
.param VINDC 6.35
.param VINAC 1
.param VREFDC=1.2
.param VREFAC 0
* .param RL=1
* .dc Vreg1 4 24
.step param RL 1u 12 0.2
.MODEL TIP42C PNP(Is=66.19f Xti=3 Eg=1.11 Vaf=100 Bf=137.6 Ise=862.2f Ne=1.481 Ikf=1.642 Nk=.5695 Xtb=2 Br=5.88 Isc=273.5f Nc=1.24 Ikr=3.555 Rc=79.39m Cjc=870.4p Mjc=.6481 Vjc=.75 Fc=.5 Cje=390.1p Mje=.4343 Vje=.75 Tr=235.4n Tf=23.21n Itf=71.33 Xtf=5.982 Vtf=10 Rb=.1 Vceo=100 Icrating=6 mfg=Texas)
.MODEL TIP41C NPN (IS=7.55826e-11 BF=260.542 NF=1.11221 VAF=100 IKF=0.526814 ISE=1e-08 NE=2.18072 BR=26.0542 NR=1.5 VAR=1000 IKR=3.54059 ISC=1e-08 NC=1.63849 RB=4.56157 IRB=0.1 RBM=0.1 RE=0.0162111 RC=0.0810556 XTB=0.1 XTI=1 EG=1.206 CJE=1.93296e-10 VJE=0.4 MJE=0.259503 TF=1e-08 XTF=4.06972 VTF=7.1157 ITF=0.001 CJC=1.09657e-10 VJC=0.730921 MJC=0.23 XCJC=0.803085 FC=0.8 TR=9.01013e-08 PTF=0 Vceo=100 ICrating=6 mfg=ON_Semi)
.inc LM324.lib
* .tran 0.99999
* R = 100*(1-TIME)
.param SELA=5
* .ac dec 1000 1 1G
* .step param RL list 1 10
* .step param SELA list 0 5
* .tran 0 3m 0 0.01m
* .step param CL list 1u 2.2u 15u
.param CL 2.2u
.param Cdes 10u
* .step param RL 4.5 10 5
.backanno
.end
